US05098929
5-Cyclohexyl-2,2-dimethyl-5-(1-hydroxyethyl)-1,3-dioxane (1.5 g.) and Dowex 50×8-200 ion exchange resin (H+ form) (1.0 g.) in methanol (30 ml.) and water (10 ml.) was refluxed with stirring for six hours. The mixture was filtered and the filtrate was evaporated in vacuo. 2-Cyclohexyl-2-hydroxymethyl-butan-1,3-diol was obtained as a pale yellow oil (1.2 g.) and was used without further purification.

reactant | 5-Cyclohexyl-2,2-dimethyl-5-(1-hydroxyethyl)-1,3-dioxane | 1.5 g | C1(CCCCC1)C1(COC(OC1)(C)C)C(C)O | C14H26O3
reactant | water | 10 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | 2-Cyclohexyl-2-hydroxymethyl-butan-1,3-diol | C1(CCCCC1)C(CO)(C(C)O)CO | C11H22O3
